US07989438B2
Step 2: [2-(methoxymethoxy)-3-methylphenyl]boronic acid
To a solution of 1-(methoxymethoxy)-2-methylbenzene in diethyl ether (0.3M) cooled at −60° C. tBuLi in pentane (1.7M, 1.4 eq) was added dropwise and the mixture was stirred for 1 h while warming gradually to 0° C. then for further 2 h at 0° C. The mixture was cooled to −78° C. and a solution of B(OMe)3 in THF (3 eq, 3.0M) was added dropwise and the mixture was allowed to reach RT and stirred overnight. The mixture was cooled to 0° C. and 1N HCl was added, then the reaction mixture was stirred for 2 h. All volatiles were removed under reduced pressure and the residue was extracted with EtOAc. The combined extracts were washed with H2O and brine, dried over Na2SO4, filtered and evaporated in vacuo to give a yellow solid which was triturated with PE to give a white solid which was used in the next step without further purification.

reactant | 1-(methoxymethoxy)-2-methylbenzene | COCOC1=C(C=CC=C1)C | C9H12O2
reactant | tBuLi | [Li]C(C)(C)C
reactant | pentane | 1.7M, 1.4 eq | CCCCC | C5H12
reactant | B(OMe)3 | B(OC)(OC)OC | C3H9BO3
reactant | THF | 3.0M, 3 eq | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ether | 0.3M | C(C)OCC | C4H10O
product | [2-(methoxymethoxy)-3-methylphenyl]boronic acid | COCOC1=C(C=CC=C1C)B(O)O | C9H13BO4
